US07211672B2
To a solution of (2S, 4R)-[4-(4-chloro-phenylamino)-2-methyl-3,4-dihydro-2H-quinolin-1-yl]-(4-fluoro-phenyl)-methanone (250 mg, 0.636 mmol) in methylene chloride (5 mL) was added diisopropylethylamine (120 uL, 0.70 mmol) followed by acetyl chloride (90 uL, 1.27 mmol). The mixture was stirred at rt 4 h. The mixture was concentrated under reduced pressure, dissolved in ethyl acetate, washed with sat. aqueous sodium bicarbonate, brine and dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel chromatography (25/75 hexanes/ethyl acetate gradient) to afford pure N-(4-chloro-phenyl)-N-[1-(4-fluoro-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-acetamide (200 mg, 71%).

reactant | (2S, 4R)-[4-(4-chloro-phenylamino)-2-methyl-3,4-dihydro-2H-quinolin-1-yl]-(4-fluoro-phenyl)-methanone | 0.636 mmol, 250 mg | ClC1=CC=C(C=C1)N[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(=O)C1=CC=C(C=C1)F)C | C23H20ClFN2O
reactant | diisopropylethylamine | 0.70 mmol, 120 uL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | acetyl chloride | 1.27 mmol, 90 uL | C(C)(=O)Cl | C2H3ClO
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | N-(4-chloro-phenyl)-N-[1-(4-fluoro-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-acetamide | 200 mg, 71% | ClC1=CC=C(C=C1)N(C(C)=O)C1CC(N(C2=CC=CC=C12)C(C1=CC=C(C=C1)F)=O)C | C25H22ClFN2O2
